US07132436B2
N-[4-(3-nitrophenyl)-1,3-thiazol-2-yl]-4-propylbenzenesulfonamide
The title compound was prepared from 2-amino-4-(3-nitrophenyl)thiazole and 4-n-propylbenzenesulfonyl chloride as described in the synthetic METHOD B to give a yellow solid (41.5 mg) with purity >90%: MS (pos) m/z 404.1, (neg) m/z 402.2; HRMS m/z 403.0062 (calc. of monoisotopic mass for Cl18H17N3O4S2 gives 403.0060).

reactant | 2-amino-4-(3-nitrophenyl)thiazole | NC=1SC=C(N1)C1=CC(=CC=C1)[N+](=O)[O-] | C9H7N3O2S
reactant | 4-n-propylbenzenesulfonyl chloride | C(CC)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO2S
product | N-[4-(3-nitrophenyl)-1,3-thiazol-2-yl]-4-propylbenzenesulfonamide | [N+](=O)([O-])C=1C=C(C=CC1)C=1N=C(SC1)NS(=O)(=O)C1=CC=C(C=C1)CCC | C18H17N3O4S2
